reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]12[C:3]([H:9])([H:10])[C@@:4]3([H:11])[C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15])[H:8]>>[O:1]([C:2]1([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])([H:9])[H:10])[C:6]([H:14])=[C:7]1[H:15])[H:8],70.1176583099426
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7]>>[O:1]([C+:2]=[C:3]([O-:4])[C:5]#[N:6])[H:7],82.4987580379218
[C:1]([C:2]([C:3](=[O:4])[H:11])=[C:5]=[C:6]([H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],78.05103746437479
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]([C-:3]([C:4]#[N:5])[H:12])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],72.4826806037228
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[N:6][H:13])([H:14])[H:15],68.7763814410699
[C:1](=[C:2]([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])[H:9].[C:3]([H:10])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],95.43481105820248
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@:2]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])[O:3]1,101.113197965141
[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5][C:6]1([H:7])[H:14]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],39.537366580000814
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([N+:6]#[C-:5])[H:13])([H:7])([H:8])[H:9],61.991861212726896
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O+:4]=[C-:3][H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],113.443381216793
[C:1]1([H:8])([H:9])[O:2][C:3]([O-:4])=[C+:5][N:6]1[H:7]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],57.21370396955149
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2]1([H:10])=[C:3]([H:12])[C:4]1([C:5](=[O:6])[H:14])[H:13]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],79.452178921441
[C:1]([N:2]([C:3]1=[C:7]([H:14])[C@:6]2([H:13])[N:4]1[N:5]2[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],23.516510453462104
[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[C:6]([H:11])[H:16])([H:14])[H:15],58.2976780995357
[C:1](=[C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:10])([H:17])[C:7]1([H:18])[H:19])[H:11])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C@@:7]12[H:19])([H:8])([H:9])[H:10],93.89761809202459
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[C:6](#[N:7])[H:11].[O:1]([C:2]([C-:3]=[C:4]=[C+:5][H:12])([H:9])[H:10])[H:8],95.1732058504941
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:7])([H:8])[H:9].[H:10][H:13],109.84612809321699
[C:1]([C@:2]1([H:11])[C:4]([H:13])([H:14])[O:5][C:6]1=[O:7])([H:8])([H:9])[H:10].[O:3]([H:12])[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],89.22780534562835
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3](=[O:4])[C@@:5]1([C:6][C:7]([H:13])([H:14])[H:15])[H:8],84.9040764149791
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:6](=[C:5]=[C:4]([H:12])[H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],66.70019899826761
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:13])=[C:5]([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:12])[H:16],72.5330842683164
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3][C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],75.8895714725003
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:6](=[O:7])[H:13])[O:3][C@:4]1([O:5][H:12])[H:11])([H:8])([H:9])[H:10],69.5257764771002
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]#[N:4])([C:5](=[O:6])[H:11])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],81.6612783762007
